### PR TITLE
[Merged by Bors] - feat (Mathlib.NumberTheory.Cyclotomic.Three): new file

### PR DESCRIPTION
**Pull request by riccardobrasca**
We add a new file `Mathlib.NumberTheory.Cyclotomic.Three` containing various results about the third cyclotomic field.

In particular we give a a completely explicit description of the group of units and we prove `eq_one_or_neg_one_of_unit_of_congruent`: Kummer's lemma in the case `p=3`.

From the flt3 project at LFTCM2024.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/NumberTheory/Cyclotomic/Rat.lean [hunk 1]
```diff
@@ -422,6 +422,81 @@ lemma prime_norm_toInteger_sub_one_of_prime_ne_two' [hcycl : IsCyclotomicExtensi
   replace hζ : IsPrimitiveRoot ζ (p ^ (0 + 1)) := by simpa using hζ
   exact hζ.prime_norm_toInteger_sub_one_of_prime_ne_two hodd
 
+/-- In a `p ^ (k + 1)`-th cyclotomic extension of `ℚ `, we have that `ζ - 1` is not congruent to an
+  integer modulo `p` if `p ^ (k  + 1) ≠ 2`. -/
```
Comment (xroblot) [inline Mathlib/NumberTheory/Cyclotomic/Rat.lean:426]:
```suggestion
/-- In a `p ^ (k + 1)`-th cyclotomic extension of `ℚ `, we have that `ζ` is not congruent to an
  integer modulo `p` if `p ^ (k  + 1) ≠ 2`. -/
```

and similar for the other ones

File: Mathlib/NumberTheory/Cyclotomic/Three.lean [hunk 2]
```diff
@@ -0,0 +1,138 @@
...
+theorem Units.mem : ↑u ∈({1, -1, η, -η, η ^ 2, -η ^ 2} : Set (𝓞 K)) := by
+  have hrank : rank K = 0 := by
+    dsimp [rank]
+    rw [card_eq_nrRealPlaces_add_nrComplexPlaces, nrRealPlaces_eq_zero (n := 3) K (by decide),
+      zero_add, nrComplexPlaces_eq_totient_div_two (n := 3)]
+    rfl
+  obtain ⟨⟨x, e⟩, hxu, -⟩ := exist_unique_eq_mul_prod _ u
+  replace hxu : u = x := by
+    rw [← mul_one x.1]
+    rw [hxu]
```
Comment (xroblot) [inline Mathlib/NumberTheory/Cyclotomic/Three.lean:47]:
```suggestion
    rw [← mul_one x.1, hxu]
```

File: Mathlib/NumberTheory/Cyclotomic/Three.lean [hunk 3]
```diff
@@ -0,0 +1,138 @@
...
+    (isOfFinOrder_iff_pow_eq_one.2 ⟨n, hnpos, hn⟩)
+  replace hr : r ∈ Finset.Ico 0 3 := Finset.mem_Ico.2 ⟨by simp, hr3⟩
+  replace hru : ↑u = η ^ r ∨ ↑u = -η ^ r := by
+    rcases hru with (h | h)
+    · left; ext; exact h
+    · right; ext; exact h
+  fin_cases hr
+  · rcases hru with (h | h)
+    · simp only [h, pow_zero, Set.mem_insert_iff, eq_neg_self_iff, one_ne_zero,
+      Set.mem_singleton_iff, false_or, true_or]
```
Comment (xroblot) [inline Mathlib/NumberTheory/Cyclotomic/Three.lean:70]:
```suggestion
    · simp only [h, pow_zero, Set.mem_insert_iff, eq_neg_self_iff, one_ne_zero,
        Set.mem_singleton_iff, false_or, true_or]
```

And similar below

File: Mathlib/NumberTheory/Cyclotomic/Three.lean [hunk 4]
```diff
@@ -0,0 +1,137 @@
...
+/-!
+# Third Cyclotomic Field
+We gather various results about the third cyclotomic field. The following notations are used in this
+file: `K` is a number field such that `IsCyclotomicExtension {3} ℚ K`, `ζ` is any primitive `3`-rd
+root of unity in `K`, `η` is the element in the ring of integers corresponding to `ζ` and
+`λ = η - 1`.
+
+## Main results
+* `IsCyclotomicExtension.Rat.Three.Units.mem`: Given a unit `u : (𝓞 K)ˣ`, we have that
+`u ∈ ({1, -1, η, -η, η^2, -η^2}`.
```
Comment (Ruben-VandeVelde) [inline Mathlib/NumberTheory/Cyclotomic/Three.lean:20]:
```suggestion
`u ∈ {1, -1, η, -η, η^2, -η^2}`.
```

File: Mathlib/NumberTheory/Cyclotomic/Three.lean [hunk 5]
```diff
@@ -0,0 +1,137 @@
...
+
+namespace IsCyclotomicExtension.Rat.Three
+
+variable {K : Type*} [Field K] [NumberField K] [IsCyclotomicExtension {3} ℚ K]
+variable {ζ : K} (hζ : IsPrimitiveRoot ζ ↑(3 : ℕ+)) (u : (𝓞 K)ˣ)
+local notation3 "η" => hζ.toInteger
+local notation3 "λ" => hζ.toInteger - 1
+
+/-- Let `u` be a unit in `(𝓞 K)ˣ`, then `u ∈ {1, -1, η, -η, η^2, -η^2}`. -/
+theorem Units.mem : ↑u ∈({1, -1, η, -η, η ^ 2, -η ^ 2} : Set (𝓞 K)) := by
```
Comment (Ruben-VandeVelde) [inline Mathlib/NumberTheory/Cyclotomic/Three.lean:38]:
```suggestion
theorem Units.mem : ↑u ∈ ({1, -1, η, -η, η ^ 2, -η ^ 2} : Set (𝓞 K)) := by
```

File: Mathlib/NumberTheory/Cyclotomic/Three.lean [hunk 6]
```diff
@@ -0,0 +1,137 @@
...
+  · rcases hru with (h | h)
+    · simp only [h, pow_zero, Set.mem_insert_iff, eq_neg_self_iff, one_ne_zero,
+        Set.mem_singleton_iff, false_or, true_or]
+    · simp only [h, pow_zero, Set.mem_insert_iff, neg_eq_self_iff, one_ne_zero, neg_inj,
+        Set.mem_singleton_iff, true_or, or_true]
+  · rcases hru with (h | h)
+    · simp only [h, zero_add, pow_one, Set.mem_insert_iff, eq_neg_self_iff, Set.mem_singleton_iff,
+      true_or, or_true]
+    · simp only [h, zero_add, pow_one, Set.mem_insert_iff, neg_inj, neg_eq_self_iff,
+      Set.mem_singleton_iff, true_or, or_true]
```
Comment (Ruben-VandeVelde) [inline Mathlib/NumberTheory/Cyclotomic/Three.lean:76]:
```suggestion
    · simp only [h, zero_add, pow_one, Set.mem_insert_iff, eq_neg_self_iff, Set.mem_singleton_iff,
        true_or, or_true]
    · simp only [h, zero_add, pow_one, Set.mem_insert_iff, neg_inj, neg_eq_self_iff,
        Set.mem_singleton_iff, true_or, or_true]
```

File: Mathlib/NumberTheory/Cyclotomic/Three.lean [hunk 7]
```diff
@@ -0,0 +1,137 @@
...
+We gather various results about the third cyclotomic field. The following notations are used in this
+file: `K` is a number field such that `IsCyclotomicExtension {3} ℚ K`, `ζ` is any primitive `3`-rd
+root of unity in `K`, `η` is the element in the ring of integers corresponding to `ζ` and
+`λ = η - 1`.
+
+## Main results
+* `IsCyclotomicExtension.Rat.Three.Units.mem`: Given a unit `u : (𝓞 K)ˣ`, we have that
+`u ∈ ({1, -1, η, -η, η^2, -η^2}`.
+
+* `IsCyclotomicExtension.Rat.Three.Units.mem.eq_one_or_neg_one_of_unit_of_congruent`: Given a unit
```
Comment (Ruben-VandeVelde) [inline Mathlib/NumberTheory/Cyclotomic/Three.lean:22]: I think this is
```suggestion
* `IsCyclotomicExtension.Rat.Three.eq_one_or_neg_one_of_unit_of_congruent`: Given a unit
```

**Review by Ruben-VandeVelde — COMMENTED** [review]
You've got a merge conflict and a few small comments below

File: Mathlib/NumberTheory/Cyclotomic/Rat.lean [hunk 8]
```diff
@@ -422,6 +422,80 @@ lemma prime_norm_toInteger_sub_one_of_prime_ne_two' [hcycl : IsCyclotomicExtensi
   replace hζ : IsPrimitiveRoot ζ (p ^ (0 + 1)) := by simpa using hζ
   exact hζ.prime_norm_toInteger_sub_one_of_prime_ne_two hodd
 
+/-- In a `p ^ (k + 1)`-th cyclotomic extension of `ℚ `, we have that `ζ` is not congruent to an
+  integer modulo `p` if `p ^ (k  + 1) ≠ 2`. -/
+theorem not_exists_int_prime_dvd_sub_of_prime_pow_ne_two
```
Comment (faenuccio) [inline Mathlib/NumberTheory/Cyclotomic/Rat.lean:427]: Should this be rather `notExistsIntPrime_dvd_sub_PrimePowNe_two` or something?

Comment (faenuccio) [reply Mathlib/NumberTheory/Cyclotomic/Rat.lean:427]: OK, I agree it should be snake_case, so I take my previous comment back. On the other hand, it seems to me that this lemma is simply an auxiliary one for the next; so I would probably call it `aux` or something, and would specify this in its doc.

File: Mathlib/NumberTheory/Cyclotomic/Rat.lean [hunk 9]
```diff
@@ -422,6 +422,80 @@ lemma prime_norm_toInteger_sub_one_of_prime_ne_two' [hcycl : IsCyclotomicExtensi
...
+      contrapose htwo
+      simp only [hk, zero_add, pow_one, ne_eq, Decidable.not_not]
+      rcases lt_or_eq_of_le (Nat.Prime.two_le hp.1) with (h | h)
+      · omega
+      · exact_mod_cast h.symm
+    · rw [hdim]
+      exact one_lt_mul_of_lt_of_le (one_lt_pow hp.1.one_lt hk)
+        (have := Nat.Prime.two_le hp.1; by omega)
+  rw [sub_eq_iff_eq_add] at h
+  replace h := pB.basis.ext_elem_iff.1 h ⟨1, hdim⟩
```
Comment (faenuccio) [inline Mathlib/NumberTheory/Cyclotomic/Rat.lean:447]: Until here nothing happened, but this point contains "an idea", I would say. Can you add a bit of doc along the proof?

File: Mathlib/NumberTheory/Cyclotomic/Rat.lean [hunk 10]
```diff
@@ -422,6 +422,80 @@ lemma prime_norm_toInteger_sub_one_of_prime_ne_two' [hcycl : IsCyclotomicExtensi
...
+  have := pB.basis_eq_pow ⟨1, hdim⟩
+  rw [hζ.integralPowerBasis_gen] at this
+  simp only [PowerBasis.coe_basis, pow_one] at this
+  rw [← this, show pB.gen = pB.gen ^ (⟨1, hdim⟩: Fin pB.dim).1 by simp, ← pB.basis_eq_pow,
+    pB.basis.repr_self_apply] at h
+  simp only [↓reduceIte, map_add, Finsupp.coe_add, Pi.add_apply] at h
```
Comment (faenuccio) [inline Mathlib/NumberTheory/Cyclotomic/Rat.lean:453]: What is this command `↓reduceIte`?

Comment (riccardobrasca) [reply Mathlib/NumberTheory/Cyclotomic/Rat.lean:453]: I don't know all the details but it  it used to get rid of an `if` condition. Anyway it is find by `simp?`.

File: Mathlib/NumberTheory/Cyclotomic/Rat.lean (hunk 9 above)
Comment (riccardobrasca) [reply Mathlib/NumberTheory/Cyclotomic/Rat.lean:450]: Done, thanks!

**Comment by faenuccio** [comment]
You can change lines by 436-446 with
```lean
replace hdim : 1 < pB.dim := by
    rw [Nat.one_lt_iff_ne_zero_and_ne_one, hdim]
    refine ⟨by simp only [ne_eq, mul_eq_zero, pow_eq_zero_iff', PNat.ne_zero, false_and, false_or,
      Nat.sub_eq_zero_iff_le, not_le, Nat.Prime.one_lt hp.out], ne_of_gt ?_⟩
    by_cases hk : k = 0
    · simp_all [hk, zero_add, pow_one, pow_zero, one_mul, Nat.lt_sub_iff_add_lt, Nat.reduceAdd];
        assumption
    · exact one_lt_mul_of_lt_of_le (one_lt_pow hp.1.one_lt hk)
        (have := Nat.Prime.two_le hp.out; by omega)
```
(not a big improvement, but probably an easier proof).

**Comment by faenuccio** [comment]
Also, you can replace the proof of `not_exists_int_prime_dvd_sub_of_prime_ne_two` by 
```lean
  refine not_exists_int_prime_dvd_sub_of_prime_pow_ne_two hζ (fun h ↦ ?_)
  simp_all only [(@Nat.Prime.pow_eq_iff 2 p (k+1) Nat.prime_two).mp (by assumption_mod_cast),
    pow_one, ne_eq]
```

File: Mathlib/NumberTheory/Cyclotomic/Three.lean [hunk 11]
```diff
@@ -0,0 +1,137 @@
...
+`λ = η - 1`.
+
+## Main results
+* `IsCyclotomicExtension.Rat.Three.Units.mem`: Given a unit `u : (𝓞 K)ˣ`, we have that
+`u ∈ {1, -1, η, -η, η^2, -η^2}`.
+
+* `IsCyclotomicExtension.Rat.Three.eq_one_or_neg_one_of_unit_of_congruent`: Given a unit
+`u : (𝓞 K)ˣ`, if `u` is congruent to an integer modulo `3`, then `u = 1` or `u = -1`.
+
+This is a special case of the so-called *Kummer's lemma*.
```
Comment (faenuccio) [inline Mathlib/NumberTheory/Cyclotomic/Three.lean:25]: Do you want to add some bibliographical reference?

File: Mathlib/NumberTheory/Cyclotomic/Three.lean [hunk 12]
```diff
@@ -0,0 +1,137 @@
...
+
+variable {K : Type*} [Field K] [NumberField K] [IsCyclotomicExtension {3} ℚ K]
+variable {ζ : K} (hζ : IsPrimitiveRoot ζ ↑(3 : ℕ+)) (u : (𝓞 K)ˣ)
+local notation3 "η" => hζ.toInteger
+local notation3 "λ" => hζ.toInteger - 1
+
+/-- Let `u` be a unit in `(𝓞 K)ˣ`, then `u ∈ {1, -1, η, -η, η^2, -η^2}`. -/
+theorem Units.mem : ↑u ∈ ({1, -1, η, -η, η ^ 2, -η ^ 2} : Set (𝓞 K)) := by
+  have hrank : rank K = 0 := by
+    dsimp [rank]
```
Comment (faenuccio) [inline Mathlib/NumberTheory/Cyclotomic/Three.lean:40]:
```suggestion
    dsimp only [rank]
```

File: Mathlib/NumberTheory/Cyclotomic/Three.lean [hunk 13]
```diff
@@ -0,0 +1,137 @@
...
+    rw [Finset.univ_eq_empty_iff, hrank]
+    infer_instance
+  obtain ⟨n, hnpos, hn⟩ := isOfFinOrder_iff_pow_eq_one.1 <| (CommGroup.mem_torsion _ _).1 x.2
+  replace hn : (↑u : K) ^ ((⟨n, hnpos⟩ : ℕ+) : ℕ) = 1 := by
+    rw [← map_pow]
+    convert map_one (algebraMap (𝓞 K) K)
+    rw_mod_cast [hxu, hn]
+    simp
+  have hodd : Odd ((3 : ℕ+) : ℕ) := by decide
+  obtain ⟨r, hr3, hru⟩ := hζ.exists_pow_or_neg_mul_pow_of_isOfFinOrder hodd
```
Comment (faenuccio) [inline Mathlib/NumberTheory/Cyclotomic/Three.lean:59]:
```suggestion
  obtain ⟨r, hr3, hru⟩ := hζ.exists_pow_or_neg_mul_pow_of_isOfFinOrder (by decide)
```

File: Mathlib/NumberTheory/Cyclotomic/Three.lean [hunk 14]
```diff
@@ -0,0 +1,137 @@
...
+    · simp only [h, pow_zero, Set.mem_insert_iff, neg_eq_self_iff, one_ne_zero, neg_inj,
+        Set.mem_singleton_iff, true_or, or_true]
+  · rcases hru with (h | h)
+    · simp only [h, zero_add, pow_one, Set.mem_insert_iff, eq_neg_self_iff, Set.mem_singleton_iff,
+        true_or, or_true]
+    · simp only [h, zero_add, pow_one, Set.mem_insert_iff, neg_inj, neg_eq_self_iff,
+        Set.mem_singleton_iff, true_or, or_true]
+  · rcases hru with (h | h)
+    · apply Set.mem_insert_of_mem; apply Set.mem_insert_of_mem; simp [h]
+    · apply Set.mem_insert_of_mem; apply Set.mem_insert_of_mem; simp [h]
```
Comment (faenuccio) [inline Mathlib/NumberTheory/Cyclotomic/Three.lean:79]:
```suggestion
  all_goals{
    rcases hru with (h | h)
    · simp only [h, pow_zero, Set.mem_insert_iff, one_ne_zero, Set.mem_singleton_iff, false_or,
        true_or, zero_add, pow_one, eq_neg_self_iff, true_or, or_true]
    · simp [h, pow_zero, Set.mem_insert_iff, neg_eq_self_iff, one_ne_zero, Set.mem_singleton_iff,
        true_or, or_true, zero_add, pow_one, neg_inj, neg_eq_self_iff]}
```

File: Mathlib/NumberTheory/Cyclotomic/Three.lean [hunk 15]
```diff
@@ -0,0 +1,137 @@
...
+
+/-- Let `K` be a number field such that `IsCyclotomicExtension {3} ℚ K`.
```
Comment (faenuccio) [inline Mathlib/NumberTheory/Cyclotomic/Three.lean:81]: Do you want to repeat this? It is already in the heading....

File: Mathlib/NumberTheory/Cyclotomic/Three.lean [hunk 16]
```diff
@@ -0,0 +1,137 @@
...
+Let `η` be the element in the ring of integers corresponding to `ζ`.
+Let `λ` be the element in the ring of integers corresponding to `ζ - 1`.
+
+Then `λ ^ 2 = -3 * η`. -/
+lemma lambda_sq : λ ^ 2 = -3 * η :=
+  calc λ ^ 2 = η ^ 2 + η + 1 - 3 * η := by ring
+  _ = 0 - 3 * η := by ext; simpa using hζ.isRoot_cyclotomic (by decide)
+  _ = -3 * η := by ring
+
+/-- Let `K` be a number field such that `IsCyclotomicExtension {3} ℚ K`.
```
Comment (faenuccio) [inline Mathlib/NumberTheory/Cyclotomic/Three.lean:92]: Again?

File: Mathlib/NumberTheory/Cyclotomic/Three.lean [hunk 17]
```diff
@@ -0,0 +1,137 @@
...
+  have := Units.mem hζ u
+  have h2 : (hζ.pow_of_coprime 2 (by decide)).toInteger = hζ.toInteger ^ 2 := by ext; simp
+  simp only [Set.mem_insert_iff, val_eq_one, Set.mem_singleton_iff] at this
+  rcases this with (rfl | h | h | h | h | h)
+  · left; rfl
+  · right; ext; simp [h]
+  · exfalso
+    apply hζ.not_exists_int_prime_dvd_sub_of_prime_ne_two' (by decide)
+    rw [← h]
+    exact hcong
```
Comment (faenuccio) [inline Mathlib/NumberTheory/Cyclotomic/Three.lean:116]:
```suggestion
    rwa [← h]
```

File: Mathlib/NumberTheory/Cyclotomic/Three.lean [hunk 18]
```diff
@@ -0,0 +1,137 @@
...
+  · exfalso
+    apply hζ.not_exists_int_prime_dvd_sub_of_prime_ne_two' (by decide)
+    obtain ⟨n, x, hx⟩ := hcong
+    rw [sub_eq_iff_eq_add] at hx
+    refine ⟨-n, -x, ?_⟩
+    rw [← neg_eq_iff_eq_neg.2 h, hx]
+    simp
```
Comment (faenuccio) [inline Mathlib/NumberTheory/Cyclotomic/Three.lean:123]:
```suggestion
    simp [← neg_eq_iff_eq_neg.2 h, hx]
```

File: Mathlib/NumberTheory/Cyclotomic/Three.lean [hunk 19]
```diff
@@ -0,0 +1,137 @@
...
+  · exfalso
+    apply (hζ.pow_of_coprime 2 (by decide)).not_exists_int_prime_dvd_sub_of_prime_ne_two'
+      (by decide)
+    rw [h2, ← h]
+    exact hcong
```
Comment (faenuccio) [inline Mathlib/NumberTheory/Cyclotomic/Three.lean:128]:
```suggestion
    rwa [h2, ← h]
```

File: Mathlib/NumberTheory/Cyclotomic/Three.lean [hunk 20]
```diff
@@ -0,0 +1,137 @@
...
+  · exfalso
+    apply (hζ.pow_of_coprime 2 (by decide)).not_exists_int_prime_dvd_sub_of_prime_ne_two'
+      (by decide)
+    obtain ⟨n, x, hx⟩ := hcong
+    refine ⟨-n, -x, ?_⟩
+    simp only [Int.cast_neg, sub_neg_eq_add, PNat.val_ofNat, Nat.cast_ofNat]
+    rw [h2, mul_neg, ← hx, ← neg_eq_iff_eq_neg.2 h]
+    simp only [Int.cast_neg, sub_neg_eq_add, neg_sub]
```
Comment (faenuccio) [inline Mathlib/NumberTheory/Cyclotomic/Three.lean:136]:
```suggestion
    simp only [Int.cast_neg, sub_neg_eq_add, PNat.val_ofNat, Nat.cast_ofNat, h2, mul_neg, ← hx,
      ← neg_eq_iff_eq_neg.2 h]
```

**Review by faenuccio — COMMENTED** [review]
Look very nice to me!

File: Mathlib/NumberTheory/Cyclotomic/Rat.lean [hunk 21]
```diff
@@ -422,6 +422,80 @@ lemma prime_norm_toInteger_sub_one_of_prime_ne_two' [hcycl : IsCyclotomicExtensi
...
+    refine ⟨by simp only [ne_eq, mul_eq_zero, pow_eq_zero_iff', PNat.ne_zero, false_and, false_or,
+      Nat.sub_eq_zero_iff_le, not_le, Nat.Prime.one_lt hp.out], ne_of_gt ?_⟩
+    by_cases hk : k = 0
+    · simp only [hk, zero_add, pow_one, pow_zero, one_mul, Nat.lt_sub_iff_add_lt,
+        Nat.reduceAdd] at htwo ⊢
+      exact htwo.symm.lt_of_le hp.1.two_le
+    · exact one_lt_mul_of_lt_of_le (one_lt_pow hp.1.one_lt hk)
+        (have := Nat.Prime.two_le hp.out; by omega)
+
+
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/Cyclotomic/Rat.lean:447]: Do these empty lines serve a purpose?

File: Mathlib/NumberTheory/Cyclotomic/Three.lean [hunk 22]
```diff
@@ -0,0 +1,115 @@
...
+lemma lambda_sq : λ ^ 2 = -3 * η :=
+  calc λ ^ 2 = η ^ 2 + η + 1 - 3 * η := by ring
+  _ = 0 - 3 * η := by ext; simpa using hζ.isRoot_cyclotomic (by decide)
+  _ = -3 * η := by ring
+
+/-- If a unit `u` is congruent to an integer modulo `λ ^ 2`, then `u = 1` or `u = -1`.
+
+This is a special case of the so-called *Kummer's lemma*. -/
+theorem eq_one_or_neg_one_of_unit_of_congruent (hcong : ∃ n : ℤ, λ ^ 2 ∣ (u - n : 𝓞 K)) :
+    u = 1 ∨ u = -1 := by
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/Cyclotomic/Three.lean:84]: The proof looks unnecessarily involved to me. If you know that `(𝓞 K)ˣ = {1,-1,ζ,-ζ,ζ+1,-ζ-1}`, then this follows from `3 ∣ a + b*ζ → 3 ∣b`, without the need to use the general result `not_exists_int_prime_dvd_sub_of_prime_ne_two'` (which, of course, will still be useful for the general case).

File: Mathlib/NumberTheory/Cyclotomic/Three.lean [hunk 23]
```diff
@@ -0,0 +1,115 @@
...
+
+namespace IsCyclotomicExtension.Rat.Three
+
+variable {K : Type*} [Field K] [NumberField K] [IsCyclotomicExtension {3} ℚ K]
+variable {ζ : K} (hζ : IsPrimitiveRoot ζ ↑(3 : ℕ+)) (u : (𝓞 K)ˣ)
+local notation3 "η" => hζ.toInteger
+local notation3 "λ" => hζ.toInteger - 1
+
+/-- Let `u` be a unit in `(𝓞 K)ˣ`, then `u ∈ {1, -1, η, -η, η^2, -η^2}`. -/
+theorem Units.mem : ↑u ∈ ({1, -1, η, -η, η ^ 2, -η ^ 2} : Set (𝓞 K)) := by
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/Cyclotomic/Three.lean:39]: Using a `List` instead of a `Finset` is further from the informal statement, but may make this more convenient to use.

File: Mathlib/NumberTheory/Cyclotomic/Three.lean [hunk 24]
```diff
@@ -0,0 +1,115 @@
...
+theorem eq_one_or_neg_one_of_unit_of_congruent (hcong : ∃ n : ℤ, λ ^ 2 ∣ (u - n : 𝓞 K)) :
+    u = 1 ∨ u = -1 := by
+  replace hcong : ∃ n : ℤ, (3 : 𝓞 K) ∣ (↑u - n : 𝓞 K) := by
+    obtain ⟨n, x, hx⟩ := hcong
+    exact ⟨n, -η * x, by rw [← mul_assoc, mul_neg, ← neg_mul, ← lambda_sq, hx]⟩
+  have hζ := IsCyclotomicExtension.zeta_spec 3 ℚ K
+  have := Units.mem hζ u
+  have h2 : (hζ.pow_of_coprime 2 (by decide)).toInteger = hζ.toInteger ^ 2 := by ext; simp
+  simp only [Set.mem_insert_iff, val_eq_one, Set.mem_singleton_iff] at this
+  rcases this with (rfl | h | h | h | h | h)
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/Cyclotomic/Three.lean:92]: `fin_cases this` should work here (untested).

Comment (riccardobrasca) [reply Mathlib/NumberTheory/Cyclotomic/Three.lean:92]: It doesn't since the theorem above is wrt to `Set` and not `Finset`. I don't remember why I wrote it like that but I am modifying it using a `Finset`. Anyway `fin_cases` still doesn't work.

Comment (MichaelStollBayreuth) [reply Mathlib/NumberTheory/Cyclotomic/Three.lean]: It should work with a `List` if the statement is of the form `x ∈[a,b,c,...]` with an explicit list), but also with an explicit `Finset`:
```lean
import Mathlib

example {n : ℕ} (h : n ∈ ({1,2,3} : Finset ℕ)) : n ≤ 3 := by
  fin_cases h <;> omega
```

Comment (riccardobrasca) [reply Mathlib/NumberTheory/Cyclotomic/Three.lean]: I agree it should, but here is doesn't. The error is
```lean
tactic 'cases' failed, nested error:
dependent elimination failed, failed to solve equation
  Decidable.rec
      (fun h ↦
        (fun x ↦
            1 ::
              List.insert (-1)
                (List.insert hζ.toInteger
                  (List.insert (-hζ.toInteger) (List.insert (-hζ.toInteger - 1) [hζ.toInteger + 1]))))
          h)
      (fun h ↦
        (fun x ↦
            List.insert (-1)
              (List.insert hζ.toInteger
                (List.insert (-hζ.toInteger) (List.insert (-hζ.toInteger - 1) [hζ.toInteger + 1]))))
          h)
      (instDecidableEqBool
        (List.elem 1
          (List.insert (-1)
            (List.insert hζ.toInteger
              (List.insert (-hζ.toInteger) (List.insert (-hζ.toInteger - 1) [hζ.toInteger + 1])))))
        true) =
    ↑u :: as✝
at case List.Mem.head
```
Let me see if using a list helps (the problem is likely the fact that being able to write a finset using the `{...}` notation require some decidability instance.

File: Mathlib/NumberTheory/Cyclotomic/Three.lean (hunk 22 above)
Comment (riccardobrasca) [reply Mathlib/NumberTheory/Cyclotomic/Three.lean:86]: I am not sure I understand this comment, why `3 ∣ a + b*η → 3 ∣b`?

File: Mathlib/NumberTheory/Cyclotomic/Three.lean (hunk 23 above)
Comment (riccardobrasca) [reply Mathlib/NumberTheory/Cyclotomic/Three.lean]: Can you elaborate a bit? `fin_cases` does not work even for a list, and I don't see any reason why lists should be better (actually, there is even one case more to consider in the proof, when `u ∈ []`).

File: Mathlib/NumberTheory/Cyclotomic/Three.lean (hunk 22 above)
Comment (MichaelStollBayreuth) [reply Mathlib/NumberTheory/Cyclotomic/Three.lean:86]: I mean when `a` and `b` are (rational) integers.

File: Mathlib/NumberTheory/Cyclotomic/Three.lean [hunk 25]
```diff
@@ -0,0 +1,122 @@
...
+
+variable {K : Type*} [Field K] [NumberField K] [IsCyclotomicExtension {3} ℚ K]
+variable {ζ : K} (hζ : IsPrimitiveRoot ζ ↑(3 : ℕ+)) (u : (𝓞 K)ˣ)
+local notation3 "η" => (IsPrimitiveRoot.isUnit (hζ.toInteger_isPrimitiveRoot) (by decide)).unit
+local notation3 "λ" => (η : 𝓞 K) - 1
+
+open scoped Classical
+
+/-- Let `u` be a unit in `(𝓞 K)ˣ`, then `u ∈ {1, -1, η, -η, η^2, -η^2}`. -/
+theorem Units.mem : u ∈ ({1, -1, η, -η, η ^ 2, -η ^ 2} : Finset (𝓞 K)ˣ) := by
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/Cyclotomic/Three.lean:41]:
```suggestion
lemma Units.mem : u ∈ [1, -1, η, -η, η ^ 2, -η ^ 2] := by
```
(The proof works unchanged.)

File: Mathlib/NumberTheory/Cyclotomic/Three.lean [hunk 26]
```diff
@@ -0,0 +1,122 @@
...
+
+This is a special case of the so-called *Kummer's lemma*. -/
+theorem eq_one_or_neg_one_of_unit_of_congruent (hcong : ∃ n : ℤ, λ ^ 2 ∣ (u - n : 𝓞 K)) :
+    u = 1 ∨ u = -1 := by
+  replace hcong : ∃ n : ℤ, (3 : 𝓞 K) ∣ (↑u - n : 𝓞 K) := by
+    obtain ⟨n, x, hx⟩ := hcong
+    exact ⟨n, -η * x, by rw [← mul_assoc, mul_neg, ← neg_mul, ← lambda_sq, hx]⟩
+  have hζ := IsCyclotomicExtension.zeta_spec 3 ℚ K
+  have := Units.mem hζ u
+  simp only [Finset.mem_insert, Finset.mem_singleton] at this
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/Cyclotomic/Three.lean:95]:
```suggestion
```

File: Mathlib/NumberTheory/Cyclotomic/Three.lean [hunk 27]
```diff
@@ -0,0 +1,122 @@
...
+  have h2 : (hζ.pow_of_coprime 2 (by decide)).toInteger = hζ.toInteger ^ 2 := by ext; simp
+  rcases this with (rfl | h | h | h | h | h)
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/Cyclotomic/Three.lean:97]:
```suggestion
  fin_cases this
```

File: Mathlib/NumberTheory/Cyclotomic/Three.lean [hunk 28]
```diff
@@ -0,0 +1,122 @@
...
+  · left; rfl
+  · right; ext; simp [h]
+  · exfalso
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/Cyclotomic/Three.lean:100]:
```suggestion
  all_goals
    exfalso
```

File: Mathlib/NumberTheory/Cyclotomic/Three.lean [hunk 29]
```diff
@@ -0,0 +1,122 @@
...
+    apply hζ.not_exists_int_prime_dvd_sub_of_prime_ne_two' (by decide)
+    convert hcong
+    simp [h]
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/Cyclotomic/Three.lean:103]:
```suggestion
  · exact hζ.not_exists_int_prime_dvd_sub_of_prime_ne_two' (by decide) hcong
```

File: Mathlib/NumberTheory/Cyclotomic/Three.lean [hunk 30]
```diff
@@ -0,0 +1,122 @@
...
+  · exfalso
+    apply hζ.not_exists_int_prime_dvd_sub_of_prime_ne_two' (by decide)
+    obtain ⟨n, x, hx⟩ := hcong
+    rw [sub_eq_iff_eq_add, h] at hx
+    refine ⟨-n, -x, sub_eq_iff_eq_add.2 ?_⟩
+    simp [mul_neg, ← neg_add, ← hx]
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/Cyclotomic/Three.lean:109]:
```suggestion
  · apply hζ.not_exists_int_prime_dvd_sub_of_prime_ne_two' (by decide)
    obtain ⟨n, x, hx⟩ := hcong
    rw [sub_eq_iff_eq_add] at hx
    refine ⟨-n, -x, sub_eq_iff_eq_add.2 ?_⟩
    simp only [PNat.val_ofNat, Nat.cast_ofNat, mul_neg, Int.cast_neg, ← neg_add, ← hx,
      Units.val_neg, IsUnit.unit_spec, RingOfIntegers.neg_mk, neg_neg]
```

File: Mathlib/NumberTheory/Cyclotomic/Three.lean [hunk 31]
```diff
@@ -0,0 +1,122 @@
...
+  · exfalso
+    apply (hζ.pow_of_coprime 2 (by decide)).not_exists_int_prime_dvd_sub_of_prime_ne_two'
+      (by decide)
+    convert hcong
+    simp [h2, h]
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/Cyclotomic/Three.lean:114]:
```suggestion
  · exfalso
  · exact (hζ.pow_of_coprime 2 (by decide)).not_exists_int_prime_dvd_sub_of_prime_ne_two'
      (by decide) hcong
```

File: Mathlib/NumberTheory/Cyclotomic/Three.lean [hunk 32]
```diff
@@ -0,0 +1,122 @@
...
+  · exfalso
+    apply (hζ.pow_of_coprime 2 (by decide)).not_exists_int_prime_dvd_sub_of_prime_ne_two'
+      (by decide)
+    obtain ⟨n, x, hx⟩ := hcong
+    refine ⟨-n, -x, sub_eq_iff_eq_add.2 ?_⟩
+    simp only [PNat.val_ofNat, Nat.cast_ofNat, mul_neg, Int.cast_neg, mul_neg, ← neg_add,
+      ← sub_eq_iff_eq_add.1 hx]
+    simp [h, h2]
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/Cyclotomic/Three.lean:122]:
```suggestion
  · apply (hζ.pow_of_coprime 2 (by decide)).not_exists_int_prime_dvd_sub_of_prime_ne_two'
      (by decide)
    obtain ⟨n, x, hx⟩ := hcong
    refine ⟨-n, -x, sub_eq_iff_eq_add.2 ?_⟩
    simp only [h2, PNat.val_ofNat, Nat.cast_ofNat, mul_neg, Int.cast_neg, ← neg_add,
      ← sub_eq_iff_eq_add.1 hx, Units.val_neg, val_pow_eq_pow_val, IsUnit.unit_spec, neg_neg]
```

File: Mathlib/NumberTheory/Cyclotomic/Three.lean (hunk 22 above)
Comment (MichaelStollBayreuth) [reply Mathlib/NumberTheory/Cyclotomic/Three.lean:89]: Since `[1, η]` is a `ℤ`-basis of `𝓞 K`, an element `a + b*η` (with `a b : ℤ`) is divisible by an integer `n` if and only if `n` divides both `a` and `b`.

File: Mathlib/NumberTheory/Cyclotomic/Three.lean [hunk 33]
```diff
@@ -0,0 +1,122 @@
...
+  replace hcong : ∃ n : ℤ, (3 : 𝓞 K) ∣ (↑u - n : 𝓞 K) := by
+    obtain ⟨n, x, hx⟩ := hcong
+    exact ⟨n, -η * x, by rw [← mul_assoc, mul_neg, ← neg_mul, ← lambda_sq, hx]⟩
+  have hζ := IsCyclotomicExtension.zeta_spec 3 ℚ K
+  have := Units.mem hζ u
+  simp only [Finset.mem_insert, Finset.mem_singleton] at this
+  have h2 : (hζ.pow_of_coprime 2 (by decide)).toInteger = hζ.toInteger ^ 2 := by ext; simp
+  rcases this with (rfl | h | h | h | h | h)
+  · left; rfl
+  · right; ext; simp [h]
```
[the remark this answers is not in the document]
Comment (riccardobrasca) [reply Mathlib/NumberTheory/Cyclotomic/Three.lean:98]: This seems to make the proof just harder to read.

File: Mathlib/NumberTheory/Cyclotomic/Three.lean (hunk 27 above)
Comment (riccardobrasca) [reply Mathlib/NumberTheory/Cyclotomic/Three.lean]: This still does not work for me.

**Comment by riccardobrasca** [comment]
@MichaelStollBayreuth I am confused by all your comments (but thanks for the review!), applying them gives errors, that I can fix of course, but I guess I will write again my own proof. It seems to me there are two things:

* using `fin_cases`: I agree it *should* work, but it doesn't in the various experiments I tried.
* using a list instead of a finset: this is easy to implement, but as you said is further from the informal statement and I don't see any advantage (but I am happy to change my mind).

**Comment by riccardobrasca** [comment]
> @MichaelStollBayreuth I am confused by all your comments (but thanks for the review!), applying them gives errors, that I can fix of course, but I guess I will write again my own proof. It seems to me there are two things:
> 
>     * using `fin_cases`: I agree it _should_ work, but it doesn't in the various experiments I tried.
> 
>     * using a list instead of a finset: this is easy to implement, but as you said is further from the informal statement and I don't see any advantage (but I am happy to change my mind).

Sorry, `fin_cases` works with the list (I am almost sure it didn't three hours ago... I don't know). So let's go with it.

**Comment by MichaelStollBayreuth** [comment]
Maybe I should have put everything together in one big "suggestion" comment. It looks like it works after all changes are made (I had checked out your branch and changed the proof there, so the version I had was definitely working, but I may have made the odd copy-and-paste error when logging the suggestions). Sorry for the confusion!

File: Mathlib/NumberTheory/Cyclotomic/Three.lean [hunk 34]
```diff
@@ -0,0 +1,108 @@
...
+theorem eq_one_or_neg_one_of_unit_of_congruent (hcong : ∃ n : ℤ, λ ^ 2 ∣ (u - n : 𝓞 K)) :
+    u = 1 ∨ u = -1 := by
+  replace hcong : ∃ n : ℤ, (3 : 𝓞 K) ∣ (↑u - n : 𝓞 K) := by
+    obtain ⟨n, x, hx⟩ := hcong
+    exact ⟨n, -η * x, by rw [← mul_assoc, mul_neg, ← neg_mul, ← lambda_sq, hx]⟩
+  have hζ := IsCyclotomicExtension.zeta_spec 3 ℚ K
+  have := Units.mem hζ u
+  fin_cases this
+  · left; rfl
+  · right; ext; simp
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/Cyclotomic/Three.lean:91]: does `· right; rfl` not work here? The goal should be something like `-1 = 1 \or -1 = -1`.

File: Mathlib/NumberTheory/Cyclotomic/Three.lean (hunk 22 above)
Comment (MichaelStollBayreuth) [reply Mathlib/NumberTheory/Cyclotomic/Three.lean:83]: But this would need another lemma and is not really necessary here, as the approach using the general statement works (and the proof is a bit shorter now).

File: Mathlib/NumberTheory/Cyclotomic/Three.lean (hunk 34 above)
Comment (riccardobrasca) [reply Mathlib/NumberTheory/Cyclotomic/Three.lean:91]: It does, thanks!

**Review by MichaelStollBayreuth — APPROVED** [review]
LGTM now.

**Comment by MichaelStollBayreuth** [comment]
maintainer merge

File: Mathlib/NumberTheory/Cyclotomic/Three.lean [hunk 35]
```diff
@@ -0,0 +1,108 @@
...
+
+namespace IsCyclotomicExtension.Rat.Three
+
+variable {K : Type*} [Field K] [NumberField K] [IsCyclotomicExtension {3} ℚ K]
+variable {ζ : K} (hζ : IsPrimitiveRoot ζ ↑(3 : ℕ+)) (u : (𝓞 K)ˣ)
+local notation3 "η" => (IsPrimitiveRoot.isUnit (hζ.toInteger_isPrimitiveRoot) (by decide)).unit
+local notation3 "λ" => (η : 𝓞 K) - 1
+
+/-- Let `u` be a unit in `(𝓞 K)ˣ`, then `u ∈ [1, -1, η, -η, η^2, -η^2]`. -/
+theorem Units.mem : u ∈ [1, -1, η, -η, η ^ 2, -η ^ 2] := by
```
Comment (jcommelin) [inline Mathlib/NumberTheory/Cyclotomic/Three.lean:39]: Should this use a list or a finset?

File: Mathlib/NumberTheory/Cyclotomic/Three.lean [hunk 36]
```diff
@@ -0,0 +1,108 @@
...
+    (isOfFinOrder_iff_pow_eq_one.2 ⟨n, hnpos, hn⟩)
+  replace hr : r ∈ Finset.Ico 0 3 := Finset.mem_Ico.2 ⟨by simp, hr3⟩
+  replace hru : ↑u = η ^ r ∨ ↑u = -η ^ r := by
+    rcases hru with (h | h)
+    · left; ext; exact h
+    · right; ext; exact h
+  fin_cases hr <;> rcases hru with (h | h) <;> simp [h]
+
+/-- We have that `λ ^ 2 = -3 * η`. -/
+lemma lambda_sq : λ ^ 2 = -3 * η := by
```
Comment (jcommelin) [inline Mathlib/NumberTheory/Cyclotomic/Three.lean:69]: This name refers to local notation. Should the notation be made scoped? Or should it be an abbrev (of course then it will have parameters which hamper read/writability...)

File: Mathlib/NumberTheory/Cyclotomic/Three.lean [hunk 37]
```diff
@@ -0,0 +1,108 @@
...
+  ext
+  calc (λ ^ 2 : K) = η ^ 2 + η + 1 - 3 * η := by ring
+  _ = 0 - 3 * η := by simpa using hζ.isRoot_cyclotomic (by decide)
+  _ = -3 * η := by ring
+
+lemma eta_sq : (η ^ 2 : 𝓞 K) = - η - 1 := by
```
Comment (jcommelin) [inline Mathlib/NumberTheory/Cyclotomic/Three.lean:75]: Idem dito

File: Mathlib/NumberTheory/Cyclotomic/Three.lean (hunk 35 above)
Comment (jcommelin) [reply Mathlib/NumberTheory/Cyclotomic/Three.lean:39]: Ok, sorry I had missed that discussion. I think it may be good to summarize that discussion in a comment (maybe even the docstring). Or to link to a discussion, if it is deemed too long and distracting.

I think the choice is fine. But it is maybe somewhat surprising, because mathlib doesn't use lists often outside the implementation of the finiteness-hierarchy.

Comment (riccardobrasca) [reply Mathlib/NumberTheory/Cyclotomic/Three.lean:41]: I've added a short explanation.

**Comment by jcommelin** [comment]
Thanks :tada:

bors merge
